### PR TITLE
[Merged by Bors] - feat(ModelTheory/Substructures): define equivalences between substructures and prove simple results

### PR DESCRIPTION
**Pull request by GabinKolly**
Define partial equivalences between structures. A partial equivalence between structures `M` and `N` is a subobject of `M` and a subobject of `N` along with an equivalence between. This is useful to build an actual equivalence between `M` and `N`.

---

This is part of preparations toward #9967.

- [x] depends on: #11174
- [x] depends on: #15408

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by awainverse** [comment]
I just merged master into this because there was a merge conflict - I'll also take this opportunity to say that I approve this content.

File: Mathlib/ModelTheory/Substructures.lean [hunk 1]
```diff
@@ -885,8 +887,295 @@ theorem range_subtype (S : L.Substructure M) : S.subtype.toHom.range = S := by
...
+  /--The substructure which is the domain of the equivalence.-/
+  sub_dom : L.Substructure M
+  /--The substructure which is the codomain of the equivalence.-/
+  sub_cod : L.Substructure N
+  /--The equivalence between the two subdomains.-/
+  equiv : sub_dom ≃[L] sub_cod
+
+@[inherit_doc]
+scoped[FirstOrder] notation:25 M " ≃ₚ[" L "] " N =>
+  FirstOrder.Language.Substructure.SubEquivalence L M N
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Substructures.lean:903]: Apologies if this is obvious, but what is the `ₚ` in the notation standing for? "partial"?

File: Mathlib/ModelTheory/Substructures.lean [hunk 2]
```diff
@@ -885,8 +887,295 @@ theorem range_subtype (S : L.Substructure M) : S.subtype.toHom.range = S := by
...
+@[simp]
+theorem symm_apply (f : M ≃ₚ[L] N) (x : f.sub_cod) : f.symm.equiv x = f.equiv.symm x :=
+  rfl
+
+instance : LE (M ≃ₚ[L] N) :=
+  ⟨fun f g ↦ ∃h : f.sub_dom ≤ g.sub_dom,
+    (subtype _).comp (g.equiv.toEmbedding.comp (Substructure.inclusion h)) =
+      (subtype _).comp f.equiv.toEmbedding⟩
+
+theorem le_def (f g : M ≃ₚ[L] N) : f ≤ g ↔ ∃h : f.sub_dom ≤ g.sub_dom,
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Substructures.lean:931]:
```suggestion
theorem le_def (f g : M ≃ₚ[L] N) : f ≤ g ↔ ∃ h : f.sub_dom ≤ g.sub_dom,
```

**Review by YaelDillies — COMMENTED** [review]
I'm having trouble understanding your definition of subequivalence on a conceptual level. 

A subequivalence according to your PR takes in a language `L`, two `L`-structures `M` and `N` and consists of a `L`-substructure of `M`, a `L`-substructure of `N`, an equivalence between those substructures.

I would instead have expected it to take in a language `L`, two `L`-structures `M` and `N`, an equivalence between `M` and `N` and consist of a `L`-substructure of `M` and a `L`-substructure of `N` that are equivalent under the equivalence between `M` and `N`,

Am I thinking about subequivalences wrong?

**Comment by awainverse** [comment]
Perhaps these `SubEquivalence`s should be called something different... usually they are called "partial isomorphisms" in model theory.
@YaelDillies , this version is correct. The version you are thinking of differs only in the presence of an equivalence/isomorphism between the whole structures that restricts to the equivalence between substructures. We want to use partial isomorphisms to _construct_ such an isomorphism, without the assumption that one exists.

File: Mathlib/ModelTheory/Substructures.lean (hunk 1 above)
Comment (awainverse) [reply Mathlib/ModelTheory/Substructures.lean:903]: Yes - I'm thinking that these should be renamed `PartialEquiv`, and possibly other bits of nomenclature should be changed to match https://leanprover-community.github.io/mathlib4_docs/Mathlib/Logic/Equiv/PartialEquiv.html#PartialEquiv

**Comment by YaelDillies** [comment]
Ah okay, this name change clears it up! I was expecting that the global already existed and you cared about restrictions.

File: Mathlib/ModelTheory/Substructures.lean [hunk 3]
```diff
@@ -885,8 +887,295 @@ theorem range_subtype (S : L.Substructure M) : S.subtype.toHom.range = S := by
...
 
+variable (L) (M) (N)
+
+/-- An equivalence between substructures -/
+structure SubEquivalence  where
+  /--The substructure which is the domain of the equivalence.-/
+  sub_dom : L.Substructure M
+  /--The substructure which is the codomain of the equivalence.-/
+  sub_cod : L.Substructure N
+  /--The equivalence between the two subdomains.-/
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/ModelTheory/Substructures.lean]: For clarity, almost all files have the spaces here. I don't particularly mind either way, but now this PR is making this file stand out

File: Mathlib/ModelTheory/Substructures.lean [hunk 4]
```diff
@@ -885,8 +887,292 @@ theorem range_subtype (S : L.Substructure M) : S.subtype.toHom.range = S := by
...
+  simp only [Equiv.symm_apply_apply, coeSubtype]
+
+end PartialEquiv
+
 end Substructure
 
+namespace Embedding
+
+/--Given an embedding, returns the corresponding partial equivalence with `⊤` as domain.-/
+noncomputable def toPartialEquiv (f : M ↪[L] N) : M ≃ₚ[L] N :=
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Substructures.lean:1149]: Ah! Your `PartialEquiv.map` is like `Embedding.toPartialEquiv f \comp g \comp (Embedding.toPartialEquiv f).symm`.

Do you think you could *define* it like that? /maybe not define it at all

Comment (awainverse) [reply Mathlib/ModelTheory/Substructures.lean:1150]: At the moment, there's no notion of composition at all for `PartialEquiv` - in general, it should give you a partial equiv whose domains are intersections of the domains of things being composed, and that might get slightly slippery.
It does make sense what it should be for composing on the left or the right with an embedding. If one of those is defined, the other can be defined using `symm` a few times.

In any event, I'm going to go poke around with the PRs depending on this one to see how much they use this specific formulation of `map`.

Comment (YaelDillies) [reply Mathlib/ModelTheory/Substructures.lean]: Yeah, I would potentially suggest removing `map` from this PR and move to a later PR which needs it. Then we'll have a better idea of what exactly we want from it.

File: Mathlib/ModelTheory/Substructures.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/ModelTheory/Substructures.lean]: Looks you went for restoring the spaces but only restored the leading ones, not the trailing ones?

[the remark this answers is not in the document]
Comment (awainverse) [reply Mathlib/ModelTheory/Substructures.lean]: Oops - another find and replace mistake.
I think I've fixed that now, but I think I should make a separate PR to go and clean up all the whitespace in the model theory files, since that isn't the point of this PR, and I see some other whitespace issues in my files.

File: Mathlib/ModelTheory/Substructures.lean (hunk 4 above)
Comment (awainverse) [reply Mathlib/ModelTheory/Substructures.lean]: It looks like it's only needed for preliminary work that was done on showing existence of Fraïssé limits, and not for uniqueness, so I'm happy to trim it for now to get the PR through.

**Comment by awainverse** [comment]
I've moved the real new content to a new file and its own namespace. The later PRs in this sequence also have a lot of results about the type of finitely-generated partial equivalences, which I think should also go in that file.

File: Mathlib/ModelTheory/Substructures.lean [hunk 5]
```diff
@@ -885,8 +887,292 @@ theorem range_subtype (S : L.Substructure M) : S.subtype.toHom.range = S := by
...
+@[simp]
+theorem dom_top_toEmbedding_apply {f : M ≃ₚ[L] N} (h : f.source = ⊤) (m : M) :
+    dom_top_toEmbedding h m = f.equiv ⟨m, h.symm ▸ mem_top m⟩ := by
+  rcases f with ⟨dom, cod, g⟩
+  cases h
+  rfl
+
+/--Given a partial equivalence which has the whole structure as domain and
+as codomain, returns the corresponding equivalence.-/
+noncomputable def dom_cod_top_toEquiv {f : M ≃ₚ[L] N} (h_dom : f.source = ⊤)
```
[the remark this answers is not in the document]
Comment (awainverse) [reply Mathlib/ModelTheory/Substructures.lean]: I've made an attempt to clean up this bit of API - I think it's ready for review.

**Comment by YaelDillies** [comment]
Looks good enough for an API start. We can always revisit later when needed.

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
